US07618990B2
4-[2-(2,2-Dimethyl-5-oxopyrrolidin-1-yl)-5-fluoro-1,3-thiazol-4-yl]benzonitrile
4-[2-(2,2-Dimethyl-5-oxopyrrolidin-1-yl)-1,3-thiazol-4-yl]benzonitrile (0.50 g, 1.7 mmol), prepared in step 2 of Example 88, was dissolved in acetonitrile (16 mL) and the Selectfluor® reagent (0.65 g, 1.9 mmol) was added. The mixture was stirred for 16 h, diluted with ethyl acetate, washed with H2O, brine, dried over anhydrous MgSO4, filtered and concentrated. Flash chromatography (10% acetone/hexane) afforded the title compound (0.17 g, 32%) as colorless crystals. HRMS: calcd for C16H14FN3OS+H+, 316.09144; found (ESI-FT/MS, [M+H]1+), 316.0916; Analytical HPLC purity 100% at 210-370 nm, 10.6 min; 98.4% at 296 nm, 10.6 min; the Xterra® RP18 column, 3.5μ, 150×4.6 mm column, 1.2 mL/min, 85/15-5/95 (Ammon. Form. Buff. pH=3.5/ACN+MeOH) for 10 min, hold 4 min.

reactant | 4-[2-(2,2-Dimethyl-5-oxopyrrolidin-1-yl)-1,3-thiazol-4-yl]benzonitrile | 1.7 mmol, 0.50 g | CC1(N(C(CC1)=O)C=1SC=C(N1)C1=CC=C(C#N)C=C1)C | C16H15N3OS
reactant | Selectfluor | [B-](F)(F)(F)F.[B-](F)(F)(F)F.C1C[N+]2(CC[N+]1(CC2)CCl)F
solvent | acetonitrile | 16 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[2-(2,2-Dimethyl-5-oxopyrrolidin-1-yl)-5-fluoro-1,3-thiazol-4-yl]benzonitrile | 0.17 g, 32% | CC1(N(C(CC1)=O)C=1SC(=C(N1)C1=CC=C(C#N)C=C1)F)C | C16H14FN3OS
